US08217042B2
Preparation of 1-ethyl-3-(3-phenylethynylpyrido[2,3-b]pyrazin-6-yl)urea (reaction according to scheme 6)
98.1 mg of 1-(3-chloropyrido[2,3-b]pyrazin-6-yl)-3-ethylurea (0.39 mmol), 10.1 mg copper(I) iodide (0.05 mmol) and 193 μl of triethylamine (1.38 mmol) were initially charged in 2 ml of anhydrous dimethylformamide under nitrogen as a protective gas. Subsequently, 29.1 mg of dichlorobis(triphenylphosphine)palladium(II) (0.04 mmol) and 54 μl of phenylacetylene (0.49 mmol) were added, and the mixture was stirred at room temperature for 16 h. For workup, the mixture was diluted with dichloromethane and added to dilute hydrochloric acid. The precipitated solid was filtered off with suction, and the organic phase was washed with dilute hydrochloric acid and distilled water. After phase separation, the organic solvent was removed under reduced pressure. The further purification was effected by column chromatography on silica gel (dichloromethane/methanol eluent). This gave a yellow solid.

reactant | 1-(3-chloropyrido[2,3-b]pyrazin-6-yl)-3-ethylurea | 0.39 mmol, 98.1 mg | ClC1=CN=C2C(=N1)N=C(C=C2)NC(=O)NCC | C10H10ClN5O
reactant | triethylamine | 1.38 mmol, 193 μl | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 0.49 mmol, 54 μl | C1(=CC=CC=C1)C#C | C8H6
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(I) iodide | 0.05 mmol, 10.1 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.04 mmol, 29.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-ethyl-3-(3-phenylethynylpyrido[2,3-b]pyrazin-6-yl)urea | C(C)NC(=O)NC=1C=CC=2C(=NC(=CN2)C#CC2=CC=CC=C2)N1 | C18H15N5O
